US09328110B2
To a solution of ethyl 6-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)hexanoate (39.0 g, 110 mmol) in ethanol (100 mL) was added a solution of sodium hydroxide (5.73 g, 143 mmol) in water (100 mL). After stirring at room temperature overnight, the volatiles were removed under reduced pressure, the residue taken up in water (200 mL), the solution washed with dichloromethane (3×75 mL) and then acidified to about pH 6. The aqueous mixture was extracted with dichloromethane (3×75 mL), and then the combined organic fractions were dried over magnesium sulfate, filtered, and concentrated under reduced pressure to provide 6-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)hexanoic acid (31.0 g) as a solid that was used directly in the next step without further purification.

reactant | ethyl 6-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)hexanoate | 110 mmol, 39.0 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCCC(=O)OCC | C21H27N3O2
reactant | sodium hydroxide | 143 mmol, 5.73 g | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 6-(2-propyl-1H-imidazo[4,5-c]quinolin-1-yl)hexanoic acid | 31.0 g | C(CC)C=1N(C2=C(C=NC=3C=CC=CC23)N1)CCCCCC(=O)O | C19H23N3O2
